US04066650
Methylglyoxal-succinimide
9.9 g of succinimide were added to 100 ml of water containing trace amounts of K2CO3. The mixture was then heated to 70° C while stirring. When all solid had dissolved, 20 ml (8.0 g) of a 40% aqueous methylglyoxal were added in one batch and the reaction mixture was kept at 70° C for another hour.

reactant | succinimide | 9.9 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | methylglyoxal | CC(=O)C=O | C3H4O2
solvent | water | 100 ml | O | H2O
product | Methylglyoxal succinimide | CC(=O)C=O.C1(CCC(N1)=O)=O | InChI=1S/C4H5NO2.C3H4O2/c6-3-1-2-4(7)5-3;1-3(5)2-4/h1-2H2,(H,5,6,7);2H,1H3
